US04874876
Preparation of Hippuryl Chloride
The title compound was prepared by the chlorination of hippuric acid using phosphorus pentachloride in acetyl chloride according to a literature procedure, mp 124°-126° C. dec (McInally, I. et al J. Polymer Sci. Polymer Chem. Ed. (1977), 15, 2511, mp 125° C. dec.).

reactant | hippuric acid | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | Hippuryl Chloride | C(CNC(=O)C1=CC=CC=C1)(=O)Cl | C9H8ClNO2
